US06469176B1
1-Methyl-4-(3-(4,5-dihydroisoxazol-3-yl)-2-methyl-4-methylsulfonylbenzoyl)-5-hydroxypyrazole (Process Step g)—Variant A)
2.2 l of 1,4-dioxane, 100 g (0.315 mol) of 3-(3-bromo-2-methyl-6-methylsulfonylphenyl)-4,5-dihydroisoxazole, 30.82 g (0.315 mol) of 1-methyl-5-hydroxypyrazole, 87 g (0.63 mol) of potassium carbonate, 63.5 g (0.63 mol) of triethylamine and 11.2 g (0.016 mol) of bis(triphenylphosphine)-palladium dichloride were added to a 3.5 l autoclave. The autoclave was then flushed twice with nitrogen, a carbon monoxide pressure of 10 kg/cm2 was applied and the mixture was heated with stirring to 130° C. The carbon monoxide pressure was increased to 20 kg/cm2 and the mixture was stirred at 130° C. for 24 h. The mixture was then concentrated under reduced pressure and the residue was taken up in water. The aqueous phase of pH 11 was extracted with dichloromethane. The organic phase is discarded. The aqueous phase is adjusted to pH 4 using 18% strength hydrochloric acid. The precipitate was filtered off, washed three times with water and dried at 40° C. under reduced pressure. This gives 85 g of product. The filtrate is extracted with dichloromethane. The organic phase is dried with sodium sulfate, and the solvent is then removed under reduced pressure, giving a further 12.7 g of product.

reactant | 3-(3-bromo-2-methyl-6-methylsulfonylphenyl)-4,5-dihydroisoxazole | 0.315 mol, 100 g | BrC=1C(=C(C(=CC1)S(=O)(=O)C)C1=NOCC1)C | C11H12BrNO3S
reactant | 1-methyl-5-hydroxypyrazole | 0.315 mol, 30.82 g | CN1N=CC=C1O | C4H6N2O
reactant | potassium carbonate | 0.63 mol, 87 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 0.63 mol, 63.5 g | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)-palladium dichloride | 0.016 mol, 11.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 2.2 l | O1CCOCC1 | C4H8O2
product | 1-Methyl-4-(3-(4,5-dihydroisoxazol-3-yl)-2-methyl-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 12.7 g | CN1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C1=NOCC1)C)=O | C16H17N3O5S
